US04061761
4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol
10 g of powdered 4-(4-chloro-3-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide were dissolved in 500 ml of water at 50° C, while stirring, 100 ml of saturated sodium bicarbonate solution were added and the solution was thoroughly stirred for 2 hours at 5°-10° C, 4-(4-chloro-3-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol was filtered off and washed several times with water. Melting point: 187°-188° C (decomposition).

reactant | 4-(4-chloro-3-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | 10 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(N)(=O)=O
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | water | 500 ml | O | H2O
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(N)(=O)=O | C11H14ClN3O3S2
